US07465795B2
4-Amino-N-ethyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide
The title compound was prepared from 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide (70.0 mg, 0.237 mmol) and 4-methoxy-3-pyridine boronic acid (153.0 mg, 0.3439 mmol) according to Method A except that the extraction was carried out with methylene chloride rather than ethyl acetate and the flash column was eluted with a gradient of 10to 60% methanol in dichloromethane. The concentrated product was then recrystallized from chloroform (with a few drops of methanol) and hexanes to afford the title compound as a yellow solid (19.6 mg, 26% yield). 1H NMR (300.132 MHz, CDCl3) δ 8.58 (d, J=5.7 Hz, 1H), 8.52-8.43 (bm, 1H), 8.46 (s, 1H), 7.92 (app quintet, J=4.0 Hz, 1H), 7.74 (dd, J=4.9, 0.9 Hz, 2H), 6.96 (d, J=5.8 Hz, 1H), 3.78 (s, 3H), 3.53 (dq, J=5.8, 7.3, Hz, 2H), 1.27 (t, J=7.3 Hz, 3H). MS APCI, m/z=324 (M+H). HPLC 1.42 min.

reactant | 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide | 0.237 mmol, 70.0 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCC | C11H11BrN4O
reactant | 4-methoxy-3-pyridine boronic acid | 0.3439 mmol, 153.0 mg | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
product | 4-Amino-N-ethyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide | 19.6 mg, 26% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1OC)C(=O)NCC | C17H17N5O2
